US07842685B2
Boron tribromide (1.0M in DCM; 963 μl, 0.963 mmol) was added to a solution of 2-(4-(benzyloxy)-3,5-dimethylphenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine (247.4 mg, 0.535 mmol) in DCM (24.0 mL) at −78° C., and the resulting solution was stirred at −78° C. for 5 min. Excess BBr3 was then quenched by the addition of water (50 mL), and the resulting mixture was diluted with DCM (100 mL) and allowed to warm to 25° C. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 0-100% ethyl ether/hexanes) afforded 2,6-dimethyl-4-(5-(1-phenyl-cyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenol as a white solid. MS (ESI) m/z: Calculated: 372.1; Observed: 373.2 (M++1).

reactant | Boron tribromide | 0.963 mmol, 1.0M, 963 μl | B(Br)(Br)Br | BBr3
reactant | 2-(4-(benzyloxy)-3,5-dimethylphenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | 0.535 mmol, 247.4 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C | C30H26N2OS
solvent | DCM | 24.0 mL | C(Cl)Cl | CH2Cl2
product | 2,6-dimethyl-4-(5-(1-phenyl-cyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenol | CC1=C(C(=CC(=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C)O | C23H20N2OS
